US06777432B1
To a suspension of the 2-(2-aminophenyl)isoindole-1,3-dione (360 mg, 1.5 mmol) in acetic acid (20 mL) and water (4 mL) was added dropwise a solution of sodium nitrite (98 mg, 1.42 mmol) in water (2 mL). The mixture was allowed to stir for 10 minutes and then sodium azide (98 mg, 1.51 mmol) was added. The reaction mixture was stirred for 15 minutes before it was poured into water and was extracted with dichloromethane (3×50 mL). The extracts were washed with water and brine and dried over magnesium sulfate. Filtration and concentration in vacuo gave 373 mg (94%) of 2-(2-azidophenyl)isoindole-1,3-dione as a solid: 1H NMR (300 MHz, DMSO-d6) δ 7.94 (m, 4H), 7.58 (m, 1H), 7.48 (m, 2H), 7.32 (m, 1H).

reactant | 2-(2-aminophenyl)isoindole-1,3-dione | 1.5 mmol, 360 mg | NC1=C(C=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C14H10N2O2
reactant | sodium nitrite | 1.42 mmol, 98 mg | N(=O)[O-].[Na+]
reactant | sodium azide | 1.51 mmol, 98 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | water | 4 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | 2-(2-azidophenyl)isoindole-1,3-dione | 373 mg, 94% | N(=[N+]=[N-])C1=C(C=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C14H8N4O2
